US05889026
4-(4-Fluoro-benzyl)-4-hydroxy-piperidin-1-carboxylic acid ethylester
The title compound was prepared from 1-ethoxycarbonyl-4-piperidone and 4-fluoro-benzylbromide.

reactant | 1-ethoxycarbonyl-4-piperidone | C(C)OC(=O)N1CCC(CC1)=O | C8H13NO3
reactant | 4-fluoro-benzylbromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | 4-(4-Fluoro-benzyl)-4-hydroxy-piperidin-1-carboxylic acid ethylester | C(C)OC(=O)N1CCC(CC1)(O)CC1=CC=C(C=C1)F | C15H20FNO3
